US04496570
A mixture of 4 mmol of 17-allyl-4,5α-epoxy-3,14-dihydroxymorphinan-6-one hydrochloride (naloxone hydrochloride 1.46 g) and of 8 mmol cysteine ethyl ester hydrochloride (1.5 g) in 45 ml of dry pyridine is stirred at room temperature for 20 hours under a nitrogen atmosphere. The solution is concentrated in vacuo. The resulting mixture is partitioned between water (50 ml) and chloroform (50 ml). The pH of the aqueous layer is adjusted to 7.0 with 10% NaOH. After shaking, the organic layer is separated. The aqueous layer obtained is extracted twice with 50 ml of chloroform. The organic layers are combined, washed once with water, dried over sodium sulfate and evaporated to give a colorless oil. The oil is purified on a chromatographic column [neutral silica gel (silicAR CC-7), 100 g] using a mobile phase of a mixed solvent of chloroform and methanol (50:1). The selected fractions are collected and evaporated in vacuo to give a colorless oil. The oil is dissolved in 30 ml dry ethyl ether (30 ml) and excess hydrogen chloride in dry ethanol is added. The colorless powder obtained is filtered and dried over phosphorus pentoxide to give 6-spirothiazolidine dihydrochloride of naloxone as an amorphous powder; m.p. 171°-175° C. (dec). Elemental analysis for C24H30N2O5S.2HCl.2H2O calcd.: C, 50.79; H, 6.39; N, 4.94; S, 5,65; Cl, 12.49. Found: C, 50.55; H, 6.26; N, 4.97; S, 5.74; Cl, 12.56. IR (KBr) cm-1 : 1750, 1650, 1640, 1630, 1620, 1510, 1470, 1460, 1375, 1320, 1230, 1120, 1030, 950 and 900. NMR (DMSO-d6) δ 1.0-4.0 (m), 4.24 (2H, q, J=Hz, --COOCH2), 4.72 (1H, t, J-8 Hz, 4'-H), 5.02 and 5.14 (1/3H and 2/3H, respectively, each s, 5-H), 5.2-6.0 (m), 6.6-6.9 (2H, m, aromatic protons).

reactant | 17-allyl-4,5α-epoxy-3,14-dihydroxymorphinan-6-one hydrochloride | 4 mmol, 1.46 g | Cl.C(C=C)N1[C@H]2[C@@]3(CCC([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)=O)O
reactant | cysteine ethyl ester hydrochloride | 8 mmol, 1.5 g | Cl.C(C)OC([C@@H](N)CS)=O
reactant | hydrogen chloride | Cl | ClH
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | naloxone | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C19H21NO4
